US07186724B2
Cyclopropanecarboxylic acid tert-butyl ester.
To a stirred suspension of 12.0 g (107.1 mmol) of potassium t-butoxide in 200 mL ether at 0° C. under nitrogen was added 13.4 g (128.6 mmol) of cyclopropanecarboxylic acid chloride over 5 min. After 30 min at 0° C. the mixture was stirred at ambient temperature for an additional 30 min. The reaction mixture was poured into aqueous saturated sodium bicarbonate and extracted with ether. The organic layer was dried and carefully concentrated to deliver 15.0 g (99%) of a yellow oil as the desired ester product.

reactant | potassium t-butoxide | 107.1 mmol, 12.0 g | CC(C)([O-])C.[K+]
reactant | cyclopropanecarboxylic acid chloride | 128.6 mmol, 13.4 g | C1(CC1)C(=O)Cl | C4H5ClO
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ether | 200 mL | CCOCC | C4H10O
product | Cyclopropanecarboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)C1CC1 | C8H14O2
